US09302989B2
N-(4-{3-[(2-methoxyethyl)carbamoyl]azetidin-1-yl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 2-methoxyeth-1-ylamine for 3-phenylpropan-1-amine and 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)azetidine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.59 (s, 1H), 8.49 (d, J=5.0 Hz, 1H), 8.13 (s, 1H), 8.05 (t, J=5.5 Hz, 1H), 7.42 (d, J=5.1 Hz, 1H), 7.35-7.27 (m, 2H), 6.42-6.34 (m, 2H), 4.79-4.73 (m, 4H), 3.93-3.86 (m, 2H), 3.73 (t, J=6.6 Hz, 2H), 3.52-3.41 (m, 1H), 3.38-3.30 (m, 2H), 3.27-3.21 (m, 5H); MS (ESI(+)) m/e 396 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 1-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)azetidine-3-carboxylic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(C=C2)N2CC(C2)C(=O)O | C18H18N4O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(4-{3-[(2-methoxyethyl)carbamoyl]azetidin-1-yl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | COCCNC(=O)C1CN(C1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C21H25N5O3
